US07648985B2
(i) (2-{7-[3-(4-Cyanophenoxy)propyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}ethyl)carbamic acid tert-butyl ester
4-[3-(9-Oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propoxy]benzonitrile (6.5 g, 0.0226 mol; see WO 01/28992) and tert-butyl 2-bromoethylcarbamate (6 g, 0.0271 mol; see WO 01/28992) were dissolved in 80 mL of dry acetonitrile. Anhydrous potassium carbonate (4.68 g, 0.034 mol) was added and the mixture was stirred at 60° C. overnight. A further portion of tert-butyl 2-bromoethylcarbamate (2.53 g, 0.0113 mol) was added and the reaction heated at 65° C. overnight. The reaction mixture was then filtered and the filtrate concentrated under reduced pressure. The product was purified by column chromatography using methanol-chloroform as eluent to give the sub-title compound (4.5 g) as a yellow solid.

reactant | 4-[3-(9-Oxa-3,7-diazabicyclo[3.3.1]non-3-yl)propoxy]benzonitrile | 0.0226 mol, 6.5 g | C12CN(CC(CNC1)O2)CCCOC2=CC=C(C#N)C=C2 | C16H21N3O2
reactant | tert-butyl 2-bromoethylcarbamate | 0.0271 mol, 6 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | potassium carbonate | 0.034 mol, 4.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 2-bromoethylcarbamate | 0.0113 mol, 2.53 g | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | (2-{7-[3-(4-Cyanophenoxy)propyl]-9-oxa-3,7-diazabicyclo[3.3.1]non-3-yl}ethyl)carbamic acid tert-butyl ester | 4.5 g | C(C)(C)(C)OC(NCCN1CC2CN(CC(C1)O2)CCCOC2=CC=C(C=C2)C#N)=O | C23H34N4O4
